US09303040B2
Methanesulfonyl chloride (1.230 mL, 15.89 mmol) and TEA (4.642 mL, 33.30 mmol) was added to a stirred solution of methyl 2-(4-fluorophenyl)-3-hydroxypropanoate (3 g, 15.14 mmol) in THF (150 mL) at 0° C. under nitrogen. The reaction mixture was allowed to warm to room temperature and stirred at room temperature for 2 days. The resulting suspension was diluted with Et2O (200 mL), filtered and concentrated in vacuo to give a colorless oil containing the intermediate compound, methyl 2-(4-fluorophenyl)acrylate. 1H NMR (CDCl3, 400 MHz) 7.39 (dd, J 8.4 and 5.4 Hz, 2H), 7.04 (app. t, J=8.6 Hz, 2H), 6.36 (s, 1H), 5.87 (s, 1H), 3.83 (s, 1H.) The methyl 2-(4-fluorophenyl)acrylate was taken up into THF (150 mL) and treated with isopropylamine (6.446 mL, 75.68 mmol). The reaction mixture was stirred at room temperature for 2 hours, diluted with EtOAc (200 mL), washed with saturated aqueous bicarbonate (100 mL), dried over Na2SO4 and concentrated in vacuo to give pure methyl 2-(4-fluorophenyl)-3-(isopropylamino)propanoate (3.6 g, 99.39% yield). LCMS (APCI+) [M+H]+ 240.

reactant | Methanesulfonyl chloride | 15.89 mmol, 1.230 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 2-(4-fluorophenyl)-3-hydroxypropanoate | 15.14 mmol, 3 g | FC1=CC=C(C=C1)C(C(=O)OC)CO | C10H11FO3
reactant | methyl 2-(4-fluorophenyl)acrylate | FC1=CC=C(C=C1)C(C(=O)OC)=C | C10H9FO2
reactant | isopropylamine | 75.68 mmol, 6.446 mL | C(C)(C)N | C3H9N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | Et2O | 200 mL | CCOCC | C4H10O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | methyl 2-(4-fluorophenyl)-3-(isopropylamino)propanoate | 3.6 g, 99.39% yield | FC1=CC=C(C=C1)C(C(=O)OC)CNC(C)C | C13H18FNO2
